US05099019
2-Chlorobenzothiazole (5.00 g), is heated in alcohol (75 ml) with 3.05 g piperazine (3.05 g) for 20 hr. The mixture is partitioned between methylene chloride/ether and aqueous sodium bicarbonate, the phases are separated, the organic phase is dried with sodium sulfate and concentrated to give 2-piperazinobenzothiazole which is reacted at 70 in acetonitrile (200 ml) with 21-bromo 17α-hydroxypregna-4,9(11)-diene-3,20-dione (7.45 g) and potassium carbonate (2.44 g) for 6 hr and at 20°-25° for 3 days. The mixture is partitioned between methylene chloride and aqueous sodium bicarbonate, the phases are separated, the organic phase is dried with sodium sulfate and concentrated. The concentrate is chromatographed on silica gel eluting with methanol/methylene chloride (6/94) to give the title compound which is recrystallized from ethyl acetate.

reactant | 2-Chlorobenzothiazole | 5.00 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | piperazine | 3.05 g | N1CCNCC1 | C4H10N2
product | 2-piperazinobenzothiazole | N1(CCNCC1)C=1SC2=C(N1)C=CC=C2 | C11H13N3S
